US08871756B2
A mixture of oxetan-3-ylidene-acetonitrile (950 mg, 10 mmol) and phenylmethanamine (1.31 ml, 12 mmol) was heated with stirring at 60° C. for 5 hours under nitrogen. The mixture was concentrated in vacuo. The residue was purified by flash column (eluting with 0-50% ethyl acetate in hexane) to afford 1.65 g of 3-(benzylamino)oxetan-3-acetonitrile as a colorless oil (yield was 81.7%).

reactant | oxetan-3-ylidene-acetonitrile | 10 mmol, 950 mg | O1CC(C1)=CC#N | C5H5NO
reactant | phenylmethanamine | 12 mmol, 1.31 ml | C1(=CC=CC=C1)CN | C7H9N
product | 3-(benzylamino)oxetan-3-acetonitrile | 1.65 g, yield was 81.7% | C(C1=CC=CC=C1)NC1(COC1)CC#N | C12H14N2O
